US05382590
0.49 g of 3-methylphenyl isocyanate is added at a temperature close to 25° C to a solution of 1.2 g of 2-amino-N-[2-(8-azaspiro[4,5]decan-8-yl)-2-oxoethyl]-N-phenylacetamide in 50 cm3 of anhydrous tetrahydrofuran. The mixture is stirred for 12 hours at a temperature close to 25° C and the insoluble product is separated off by filtration. After recrystallization from ethyl acetate, 0.7 g of N-[2-(8azaspiro[4,5]decan-8-yl)-2-oxoethyl]-2-[3-(3-methylphenyl)ureido]-N-phenylacetamide melting at 183° C. is obtained.

reactant | 3-methylphenyl isocyanate | 0.49 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
reactant | 2-amino-N-[2-(8-azaspiro[4,5]decan-8-yl)-2-oxoethyl]-N-phenylacetamide | 1.2 g | NCC(=O)N(C1=CC=CC=C1)CC(=O)N1CCC2(CCCC2)CC1 | C19H27N3O2
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
product | N-[2-(8azaspiro[4,5]decan-8-yl)-2-oxoethyl]-2-[3-(3-methylphenyl)ureido]-N-phenylacetamide | 0.7 g | C1CCCC12CCN(CC2)C(CN(C(CNC(=O)NC2=CC(=CC=C2)C)=O)C2=CC=CC=C2)=O | C27H34N4O3
